US07470708B2
Methyl 4-ethoxy-6-fluoroquinoline-2-carboxylate
8.0 g (0.036 M) of methyl 6-fluoro-4-oxo-1,4-dihydroquinoline-2-carboxylate and 15.0 g (0.108 M) of potassium carbonate are introduced into 80 ml of DMF. The reaction mixture is stirred for 1 hour at 50° C. After addition of 3.0 ml (0.037 M) of iodoethane and heating for 12 hours at 50° C., the reaction medium is poured into 400 ml of demineralized water. A brown solid precipitates out. The solid is filtered off, washed thoroughly with water and then with isopropyl ether, and finally dried under vacuum at 40° C.

reactant | methyl 6-fluoro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 0.036 M, 8.0 g | FC=1C=C2C(C=C(NC2=CC1)C(=O)OC)=O | C11H8FNO3
reactant | potassium carbonate | 0.108 M, 15.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
reactant | iodoethane | 0.037 M, 3.0 ml | ICC | C2H5I
solvent | water | 400 ml | O | H2O
product | Methyl 4-ethoxy-6-fluoroquinoline-2-carboxylate | C(C)OC1=CC(=NC2=CC=C(C=C12)F)C(=O)OC | C13H12FNO3
